US07579359B2
A mixture of N-(4-chloroquinolin-3-yl)benzamide (0.020 g, 1 eq), O-methylhydroxylamine hydrochloride (3 eq), and isopropanol was heated at 80° C. for 17 hours. The reaction was also run using ethanol in lieu of isopropanol. The two reaction mixtures were combined, diluted with ethyl acetate, washed sequentially with aqueous potassium carbonate (×2), water, and brine, dried over potassium carbonate, filtered, and then concentrated under reduced pressure. The resulting solid was dried at 80° C. for 3 days to provide 12.1 mg of 1-methoxy-2-phenyl-1H-imidazo[4,5-c]quinoline as a tan powder, mp 194.0-195° C. MS (APCI) m/z 276 (M+H)+; Anal. calcd for C17H13N3O.0.2H2O: C, 73.21; H, 4.84; N, 15.07. Found: C, 73.27; H, 4.61; N, 14.84.

reactant | N-(4-chloroquinolin-3-yl)benzamide | 0.020 g, 1 eq | ClC1=C(C=NC2=CC=CC=C12)NC(C1=CC=CC=C1)=O | C16H11ClN2O
reactant | O-methylhydroxylamine hydrochloride | 3 eq | Cl.CON
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methoxy-2-phenyl-1H-imidazo[4,5-c]quinoline | 12.1 mg | CON1C(=NC=2C=NC=3C=CC=CC3C21)C2=CC=CC=C2 | C17H13N3O
